US07732446B1
As described in Example 1, 37 mg of {6,7-dimethoxy-4-[(2-methoxy-ethylcarbamoyl)-methyl]-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester was treated with HCl in EtOAc to give 40 mg (>100%) of 2-(1-aminomethyl-6,7-dimethoxy-isoquinolin-4-yl)-N-(2-methoxy-ethyl)-acetamide hydrochloride. MS: APCI (M+H) calc'd for C17H23N3O4+H 334.3; found 334.1.

reactant | {6,7-dimethoxy-4-[(2-methoxy-ethylcarbamoyl)-methyl]-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester | 37 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(NCCOC)=O)=O | C22H31N3O6
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(1-aminomethyl-6,7-dimethoxy-isoquinolin-4-yl)-N-(2-methoxy-ethyl)-acetamide hydrochloride | 40 mg, >100% | Cl.NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(=O)NCCOC | InChI=1S/C17H23N3O4.ClH/c1-22-5-4-19-17(21)6-11-10-20-14(9-18)13-8-16(24-3)15(23-2)7-12(11)13;/h7-8,10H,4-6,9,18H2,1-3H3,(H,19,21);1H
